US04287341
ii. 4-Methoxy-2-nitrobenzoic acid (XXI)
4-Cyano-3-nitroanisole (52.3 g., 0.294 mole) was slowly added to a cooled solution of 53 ml. each of acetic acid, water and sulfuric acid. The solution was refluxed for 5 hours, and then diluted with 160 ml. water. After cooling, the resulting solid was filtered and dissolved in 10% sodium hydroxide solution. After decolorization with charcoal the solution was acidified with 6 N HCl, cooled and the yellow product (51.0 g., 88% yield) was filtered. An analytical sample was recrystallized from methanol/water, M.P. 196°-7° C.

reactant | 4-Cyano-3-nitroanisole | 0.294 mole, 52.3 g | C(#N)C1=C(C=C(C=C1)OC)[N+](=O)[O-] | C8H6N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-Methoxy-2-nitrobenzoic acid | 88% yield | COC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
